* /home/bt19ece016/esim-workspace/wallace/wallace.cir

* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ mayur_wallace
* u8  a2 a1 a0 b2 b1 b0 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ adc_bridge_6
v1  a2 gnd pulse(0 5 0 0.1m 0.1m 5 10)
v2  a1 gnd pulse(0 5 0 0.1m 0.1m 10 20)
v3  a0 gnd pulse(0 5 0 0.1m 0.1m 20 40)
v4  b2 gnd pulse(0 5 0 0.1m 0.1m 5 10)
v5  b1 gnd pulse(0 5 0 0.1m 0.1m 10 20)
v6  b0 gnd pulse(0 5 0 0.1m 0.1m 20 40)
* u1  a2 plot_v1
* u3  a1 plot_v1
* u4  a0 plot_v1
* u5  b2 plot_v1
* u6  b1 plot_v1
* u7  b0 plot_v1
c2  prod1 gnd 1u
c4  prod3 gnd 1u
c6  prod5 gnd 1u
r2  net-_r2-pad1_ prod1 1k
r4  net-_r4-pad1_ prod3 1k
r6  net-_r6-pad1_ prod5 1k
* u15  prod5 plot_v1
* u13  prod3 plot_v1
* u11  prod1 plot_v1
* u9  net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_r6-pad1_ net-_r5-pad1_ net-_r4-pad1_ net-_r3-pad1_ net-_r2-pad1_ net-_r1-pad1_ dac_bridge_6
c1  prod0 gnd 1u
r1  net-_r1-pad1_ prod0 1k
* u10  prod0 plot_v1
r5  net-_r5-pad1_ prod4 1k
c5  prod4 gnd 1u
* u14  prod4 plot_v1
c3  prod2 gnd 1u
r3  net-_r3-pad1_ prod2 1k
* u12  prod2 plot_v1
a1 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] [net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] [net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ ] u2
a2 [a2 a1 a0 b2 b1 b0 ] [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u8
a3 [net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ ] [net-_r6-pad1_ net-_r5-pad1_ net-_r4-pad1_ net-_r3-pad1_ net-_r2-pad1_ net-_r1-pad1_ ] u9
* Schematic Name:                             mayur_wallace, NgSpice Name: mayur_wallace
.model u2 mayur_wallace(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_6, NgSpice Name: adc_bridge
.model u8 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_6, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 40e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a2) v(a1)+6 v(a0)+12 v(b2)+18 v(b1)+2 v(b0)+30 v(prod5)+36 v(prod3)+42 v(prod1)+48 v(prod0)+54 v(prod4)+60 v(prod2)+66
.endc
.end
